US09029371B2
Methanesulfonic acid 4-oxiranyl-3-trifluoromethyl-phenyl ester (23.54 g; 79.2 mmol) was dissolved in benzylamine (26 mL). The resulting mixture was stirrred at 80° C. for 4 h. After cooling to RT, Et2O was added and the mixture cooled to 0° C. The formed precipitate was collected by filtration, washed with Et2O, and dried under vacuum, at 40° C., to afford methanesulfonic acid 4-(2-benzylamino-1-hydroxy-ethyl)-3-trifluoromethyl-phenyl ester as a white solid (26.87 g) which was used as such.

reactant | Methanesulfonic acid 4-oxiranyl-3-trifluoromethyl-phenyl ester | 79.2 mmol, 23.54 g | O1C(C1)C1=C(C=C(C=C1)OS(=O)(=O)C)C(F)(F)F | C10H9F3O4S
reactant | Et2O | CCOCC | C4H10O
reactant | benzylamine | 26 mL | C(C1=CC=CC=C1)N | C7H9N
product | methanesulfonic acid 4-(2-benzylamino-1-hydroxy-ethyl)-3-trifluoromethyl-phenyl ester | 26.87 g | C(C1=CC=CC=C1)NCC(O)C1=C(C=C(C=C1)OS(=O)(=O)C)C(F)(F)F | C17H18F3NO4S
